US09034900B2
Step 1: 5-(2,4-difluorophenoxy)-2-methylsulfanylpyrimidin-4-ol
To a solution of 2-(2,4-difluorophenoxy)acetic acid ethyl ester (8.0 g, 37.01 mmol) and ethyl formate (4.11 g, 55.51 mmol) in dry THF (200 mL) was added NaH (1.55 g, 38.75 mmol) slowly at 0° C. The mixture was then refluxed for 2 h. In a separate flask, sodium ethoxide (3.02 g, 44.41 mmol) and S-methylthiopseudourea hemisulfate (6.17 g, 44.41 mmol) in EtOH (100 mL) were stirred at 20° C. for 2 h and then the resulting mixture was added to the above THF solution. The combined mixture was refluxed for 12 h. After concentration under vacuum, water (20 mL) and HCl (10 mL, aq. 1N) were added. The suspended solids were collected and washed with water (50 mL×3) and EtOH (50 mL×3) and dried to give the title compound (6.0 g, 60.0% yield) as a light yellow solid. 1H NMR (DMSO-d6, 400 MHz) δ 7.84 (s, 1H), 7.42-7.34 (m, 1H), 7.04-7.01 (m, 1H), 6.95 (t, J=9.6 Hz, 1H), 2.47 (s, 3H).

reactant | 2-(2,4-difluorophenoxy)acetic acid ethyl ester | 37.01 mmol, 8.0 g | C(C)OC(COC1=C(C=C(C=C1)F)F)=O | C10H10F2O3
reactant | ethyl formate | 55.51 mmol, 4.11 g | C(=O)OCC | C3H6O2
reactant | NaH | 38.75 mmol, 1.55 g | [H-].[Na+]
reactant | sodium ethoxide | 44.41 mmol, 3.02 g | [O-]CC.[Na+]
reactant | S-methylthiopseudourea hemisulfate | 44.41 mmol, 6.17 g | S(=O)(=O)(O)O.CSC(N)=N.CSC(N)=N
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | EtOH | 100 mL | CCO | C2H6O
product | 5-(2,4-difluorophenoxy)-2-methylsulfanylpyrimidin-4-ol | 6.0 g, 60.0% yield | FC1=C(OC=2C(=NC(=NC2)SC)O)C=CC(=C1)F | C11H8F2N2O2S
